US08748636B2
A. 1-[4-(3-chloropropyl)phenyl]ethanone
84 mL of CH2Cl2 and 14.4 g (1.1 eq.) of aluminum trichloride (AlCl3) are placed in a reactor at 20° C. with stirring. The reaction medium is cooled to −7° C. and 8.5 g (1.1 eq.) of acetyl chloride are then added. The mixture is stirred for 30 minutes and 15 g of 1-chloro-3-phenylpropane are then added at 0° C. At the end of the reaction, the reaction mixture is poured over about 30 minutes with vigorous stirring into 75 mL of 5% hydrochloric acid solution. The mixture is stirred for 1 hour at 10° C., the phases are then separated by settling and the aqueous phase is extracted with CH2Cl2. The organic phases are combined and washed successively with 2N HCl solution, 1N sodium hydroxide solution and water.

reactant | aluminum trichloride | 14.4 g, 1.1 eq. | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | acetyl chloride | 8.5 g, 1.1 eq. | C(C)(=O)Cl | C2H3ClO
reactant | 1-chloro-3-phenylpropane | 15 g | ClCCCC1=CC=CC=C1 | C9H11Cl
reactant | hydrochloric acid | 75 mL | Cl | ClH
solvent | CH2Cl2 | 84 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-chloropropyl)phenyl]ethanone | ClCCCC1=CC=C(C=C1)C(C)=O | C11H13ClO
